US07842688B2
b) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate
Analogously to Method D, 0.400 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.303 g of 9-chloromethyl-1-(2-trimethylsilanylethoxymethyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one are reacted. The title compound is obtained as a yellowish oil. Rf=0.20 (1:1 EtOAc-heptane); Rt=6.58.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.400 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 9-chloromethyl-1-(2-trimethylsilanylethoxymethyl)-1,3,4,5-tetrahydrobenzo[b]azepin-2-one | 0.303 g | ClCC1=CC=CC2=C1N(C(CCC2)=O)COCC[Si](C)(C)C | C17H26ClNO2Si
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-(2-oxo-1-(2-trimethylsilanylethoxymethyl)-2,3,4,5-tetrahydro-1H-benzo[b]azepin-9-ylmethoxy)piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=CC3=C2N(C(CCC3)=O)COCC[Si](C)(C)C)C=CC=C1 | C44H62N2O8Si
